US04795755
A solution of methyl 5-[2-(2-[2,2,2-trifluoroethyl]guanidino)pyrid-6-ylthio]valerimidate (0.3 g.) and N-methyl-2,2-diethoxyethylamine (0.44 g.) in MeOH (3 ml.) was kept at room temperature for 48 hours and then evaporated to dryness. The residue was dissolved in concentrated aqueous HCl and the solution heated at 90° for 30 minutes and then evaporated to dryness. The residue was partitioned between H2O and EtOAc and the aqueous phase basified with 10N NaOH and then extracted with EtOAc. The EtOAc extract was dried and evaporated to dryness and the residue dissolved in acetone. This solution was added to a solution of maleic acid in acetone, and the precipitate (0.12 g.) was collected and crystallised from EtOH to give 1-methyl-2-[4-(2-[2-(2,2,2-trifluoroethyl)guanidino]pyrid-6-ylthio)butyl]imidazole hydrogen maleate, m.p. 107°-110°.

reactant | methyl 5-[2-(2-[2,2,2-trifluoroethyl]guanidino)pyrid-6-ylthio]valerimidate | 0.3 g | FC(CN=C(NC1=NC(=CC=C1)SCCCCC(OC)=N)N)(F)F | C14H20F3N5OS
reactant | N-methyl-2,2-diethoxyethylamine | 0.44 g | CNCC(OCC)OCC | C7H17NO2
reactant | MeOH | 3 ml | CO | CH4O
product | 1-methyl-2-[4-(2-[2-(2,2,2-trifluoroethyl)guanidino]pyrid-6-ylthio)butyl]imidazole hydrogen maleate | C(\C=C/C(=O)O)(=O)O.CN1C(=NC=C1)CCCCSC1=CC=CC(=N1)NC(=NCC(F)(F)F)N | InChI=1S/C16H21F3N6S.C4H4O4/c1-25-9-8-21-13(25)6-2-3-10-26-14-7-4-5-12(23-14)24-15(20)22-11-16(17,18)19;5-3(6)1-2-4(7)8/h4-5,7-9H,2-3,6,10-11H2,1H3,(H3,20,22,23,24);1-2H,(H,5,6)(H,7,8)/b;2-1-
